US07144906B2
4-{3-[2,2-Bis(hydroxymethyl)ethyl]benzyl}-5-methyl-2-phenyloxazole
A mixture solution of 320 mg of 2,2-dimethyl-5-{3-[(5-methyl-2-phenyloxazol-4-yl)methyl]benzyl}-1,3-dioxane, 21 ml of ethanol and 21 mg of pyridinium p-toluenesulfonate (PPTS) was stirred for 2 hours at 55-60° C. The reaction solution was concentrated and the residue was purified by silica gel column chromatography (Wakogel® C-200, chloroform) to provide 305 mg of the objective compound as colorless oil.

reactant | 2,2-dimethyl-5-{3-[(5-methyl-2-phenyloxazol-4-yl)methyl]benzyl}-1,3-dioxane | 320 mg | CC1(OCC(CO1)CC1=CC(=CC=C1)CC=1N=C(OC1C)C1=CC=CC=C1)C | C24H27NO3
reactant | pyridinium p-toluenesulfonate | 21 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 21 ml | C(C)O | C2H6O
product | 4-{3-[2,2-Bis(hydroxymethyl)ethyl]benzyl}-5-methyl-2-phenyloxazole | 305 mg | OCC(CC=1C=C(CC=2N=C(OC2C)C2=CC=CC=C2)C=CC1)CO | C21H23NO3
